US06436929B1
4-(4,4-Dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-thiophene-2-carbonitrile
The product was prepared, from (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid and 4-bromo-2-thiophenecarbonitrile according to the procedure outlined in Example 5, as a yellowish solid: mp 230-231° C. (decomposed); 1H-NMR (CDCl3) δ8.32 (s, 1H, D2O exchangeable), 7.83 (d, 1H, J=1.5 Hz), 7.61 (d, 1H, J=1.4 Hz), 7.43 (dd, 1H, J=8.2, 1.9 Hz), 7.29 (d, 1H, J=1.8 Hz), 6.85 (d,

reactant | (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid | CC1(OC(NC2=C1C=C(C=C2)B(O)O)=O)C | C10H12BNO4
reactant | 4-bromo-2-thiophenecarbonitrile | BrC=1C=C(SC1)C#N | C5H2BrNS
product | 4-(4,4-Dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-thiophene-2-carbonitrile | CC1(C2=C(NC(O1)=O)C=CC(=C2)C=2C=C(SC2)C#N)C | C15H12N2O2S
